US08314091B2
A: N-tert-Butyl-2-fluoro-3-methylbenzamide
To a stirred solution of 2-fluoro-3-methylbenzoic acid (8.76 mmol, 1.35 g), 2-methylpropan-2-amine (9.43 mmol, 1 mL, 0.690 g) and triethylamine (28.7 mmol, 4 mL, 2.90 g) in dichloromethane (20 mL) was added 1-propanephosphonic acid cyclic anhydride (13.50 mmol, 8 mL, 8.59 g, 50% solution in ethyl acetate). The reaction was stirred for 2 hours and diluted with dichloromethane and aqueous sodium hydrogen carbonate. The organic layer was separated, dried and concentrated under reduced pressure to yield the title compound (1 g).

reactant | 2-fluoro-3-methylbenzoic acid | 8.76 mmol, 1.35 g | FC1=C(C(=O)O)C=CC=C1C | C8H7FO2
reactant | 2-methylpropan-2-amine | 9.43 mmol, 1 mL, 0.690 g | CC(C)(C)N | C4H11N
reactant | triethylamine | 28.7 mmol, 4 mL, 2.90 g | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 13.50 mmol, 8 mL, 8.59 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-tert-Butyl-2-fluoro-3-methylbenzamide | 1 g | C(C)(C)(C)NC(C1=C(C(=CC=C1)C)F)=O | C12H16FNO
